US04289697
5,6,7,8-Tetrahydro-3-hydroxy-2-phenylthiazolo[3,2-a]pyridinium bromide
An acetone solution of 3.51 g. (0.03 mole) δ-thiovalerolactam and 6.75 g. (0.03 mole) α-bromophenylacetic acid was heated until the solid started to form. After the solution was cooled, the solid was collected which weighed 6.5 g. Recrystallization could be done with acetonitrile. The purified material had a melting point of 188°-192° (dec.).

reactant | δ-thiovalerolactam | 0.03 mole | C1(CCCCN1)=S | C5H9NS
reactant | α-bromophenylacetic acid | 0.03 mole | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
solvent | acetone | CC(=O)C | C3H6O
product | 5,6,7,8-Tetrahydro-3-hydroxy-2-phenylthiazolo[3,2-a]pyridinium bromide | [Br-].OC1=C(SC2=[N+]1CCCC2)C2=CC=CC=C2 | InChI=1S/C13H13NOS.BrH/c15-13-12(10-6-2-1-3-7-10)16-11-8-4-5-9-14(11)13;/h1-3,6-7H,4-5,8-9H2;1H
